US04444788
(13E)-(8R,9R,11R,12R,15S)-9-Chloro-11,15-dihydroxy-19-methyl-13,18-prostadienoic Acid Acetylamide
460 mg of (13E)-(8R,9R,11R,12R,15R)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-19-methyl-13,18-prostadienoic acid acetylamide was stirred under argon at room temperature for 17 hours with 10 ml of a mixture of acetic acid/water/tetrahydrofuran (65/35/10). The mixture was then concentrated under vacuum, and the residue was purified by column chromatography on silica gel with hexane/0-100% ethyl acetate as the eluent, thus obtaining 197 mg of the title compound.

reactant | (13E)-(8R,9R,11R,12R,15R)-9-chloro-11,15-bis(tetrahydropyran-2-yloxy)-19-methyl-13,18-prostadienoic acid acetylamide | 460 mg | C(C)(=O)NC(CCCCCC[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@@H](CCC=C(C)C)OC1OCCCC1)OC1OCCCC1)Cl)=O | C33H54ClNO6
solvent | acetic acid water tetrahydrofuran | C(C)(=O)O.O.O1CCCC1
product | (13E)-(8R,9R,11R,12R,15S)-9-Chloro-11,15-dihydroxy-19-methyl-13,18-prostadienoic Acid Acetylamide | 197 mg | C(C)(=O)NC(CCCCCC[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](CCC=C(C)C)O)O)Cl)=O | C23H38ClNO4
